US07737301B2
3 g of 2-(2-chlorophenyl)bicyclopropyl (15.6 mmol, trans/cis ratio of about 2:1), 2.5 g of benzylamine (23.4 mmol), 2.4 g of sodium tert-butanolate (25 mmol), 35 mg of Pd(II) acetate (0.16 mmol) and 60 mg of R(−)-di-tert-butyl-[1-[(S)-2-(dicyclohexylphosphanyl)-ferrocenyl]ethyl]phosphine (0.11 mmol) are dissolved in 30 ml of dimethoxyethane. The reaction mixture is heated to the reflux temperature of the solvent and is stirred for 24 hours. After cooling, ethyl acetate is added and the organic phase is washed with water. The solvent is removed using a water jet vacuum and the residue is dried. The product is purified by column chromatography on silica gel (eluant:ethyl acetate/hexane 1:15). 3.58 g of benzyl(2-bicyclopropyl-2-yl-phenyl)amine (87% of theory) are obtained in the form of a brown oil (trans/cis ratio of about 2:1).

reactant | 2-(2-chlorophenyl)bicyclopropyl | 15.6 mmol, 3 g | ClC1=C(C=CC=C1)C1C(C1)C1CC1 | C12H13Cl
reactant | benzylamine | 23.4 mmol, 2.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium tert-butanolate | 25 mmol, 2.4 g | C(C)(C)(C)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
product | benzyl(2-bicyclopropyl-2-yl-phenyl)amine | 3.58 g, 87% | C(C1=CC=CC=C1)NC1=C(C=CC=C1)C1C(C1)C1CC1 | C19H21N
